US07842696B2
Saturated HCl in 1,4-dioxane (1.0 mL) was added to a stirred solution of {2-[4-(2,5-dichloro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester (280 mg, 0.67 mmol) in 1,4-dioxane (1.0 mL) at ambient temperature. The mixture was stirred at room temperature for 15 minutes then concentrated. The resulting solid was washed with diethyl ether to afford 2-amino-1-[4-(2,5-dichloro-benzoyl)-piperazin-1-yl]-ethanone hydrochloride as a solid in 78.9% yield. LC-MS purity: 94.019%

reactant | HCl | Cl | ClH
reactant | {2-[4-(2,5-dichloro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | 0.67 mmol, 280 mg | C(C)(C)(C)OC(NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)Cl)Cl)=O)=O | C18H23Cl2N3O4
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 2-amino-1-[4-(2,5-dichloro-benzoyl)-piperazin-1-yl]-ethanone hydrochloride | 78.9% yield | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)Cl)Cl)=O | InChI=1S/C13H15Cl2N3O2.ClH/c14-9-1-2-11(15)10(7-9)13(20)18-5-3-17(4-6-18)12(19)8-16;/h1-2,7H,3-6,8,16H2;1H
